US04486434
5-Amino-2-(3-cyanopropyl)-3-methylpyridine (23.0 g) was reduced with lithium aluminium hydride (12.47 g) in a mixture of tetrahydrofuran (750 ml) and diethylether (750 ml) over 3 hours, to give 5-amino-2-(4-aminobutyl)-3-methylpyridine (20.8 g) as an amber oil. N.M.R. (CDCl3): assignment, δ (p.p.m.) multiplicity; --CH2CH2CH2NH2, 1.3-1.9, m; 3--CH3, 2.22, s; CH2 (CH2)2CH2NH2, 2.6-2.8, m; 5--NH2, ca 3.5, broad resonance; 4-pyridyl proton, 6.77, d; 6-pyridyl proton, 7.88, d.

reactant | 5-Amino-2-(3-cyanopropyl)-3-methylpyridine | 23.0 g | NC=1C=C(C(=NC1)CCCC#N)C | C10H13N3
reactant | lithium aluminium hydride | 12.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | diethylether | 750 ml | C(C)OCC | C4H10O
product | 5-amino-2-(4-aminobutyl)-3-methylpyridine | 20.8 g | NC=1C=C(C(=NC1)CCCCN)C | C10H17N3
